US04618610
6-(4-Aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.5 g) was reacted with phenyl isocyanate (0.88 ml) in the same manner as Example 6 to give 6-[4-(3-phenylureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.26 g).

reactant | 6-(4-Aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.5 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | phenyl isocyanate | 0.88 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 6-[4-(3-phenylureido)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.26 g | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C)=O | C17H17N5O2
